US07176217B2
To a solution of ethyl 2-[(4-methoxyphenyl)sulfonyl]-2-azabicyclo[2.2.1]heptane-3-carboxylate (903 mg, 2.66 mmol) in tetrahydrofuran (25 ml) was added 1N sodium hydroxide (15 ml) and the mixture was stirred at room temperature for 3 hours. The reaction mixture was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was removed, to give 2-[(4-methoxyphenyl)sulfonyl]-2-azabicyclo[2.2.1]heptane-3-carboxylic acid.

reactant | ethyl 2-[(4-methoxyphenyl)sulfonyl]-2-azabicyclo[2.2.1]heptane-3-carboxylate | 2.66 mmol, 903 mg | COC1=CC=C(C=C1)S(=O)(=O)N1C2CCC(C1C(=O)OCC)C2 | C16H21NO5S
reactant | sodium hydroxide | 1N, 15 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 2-[(4-methoxyphenyl)sulfonyl]-2-azabicyclo[2.2.1]heptane-3-carboxylic acid | COC1=CC=C(C=C1)S(=O)(=O)N1C2CCC(C1C(=O)O)C2 | C14H17NO5S
